US06004959
2,5-Dihydroxy-4-methoxy-9H-fluoren-9-one (dengibsin)
To a stirred solution of 4-methoxy-2,5-bis-(1-methylethoxy)-9H-fluoren-9-one (0.58 g, 1.8 mmol) in CH2Cl2 (15.0 mL) is added BCl3 (7.2 mL, 7.2 mmol) (1.0M) at 0° C. The green mixture is allowed to warm to ambient temperature and stirred for 2 hours under argon. The mixture is cooled to OC and quenched with H2O (20 mL). The precipitated red solid is removed by filtration and recrystallized from MeOH/H2O affording 0.331 g (76%) of the title compound as a red solid: mp 235-237° C. (lit., 238-240° C.); IR (KBr) 1697, 1614, 1597 cm-1 ; UV (EtOH) 1 max=265, 274 and 338 nm (e=32,576, 36,000 and 3,406 nm.

reactant | 4-methoxy-2,5-bis-(1-methylethoxy)-9H-fluoren-9-one | 1.8 mmol, 0.58 g | COC1=CC(=CC=2C(C3=CC=CC(=C3C12)OC(C)C)=O)OC(C)C | C20H22O4
reactant | BCl3 | 7.2 mmol, 1.0M, 7.2 mL | B(Cl)(Cl)Cl | BCl3
solvent | CH2Cl2 | 15.0 mL | C(Cl)Cl | CH2Cl2
product | 2,5-Dihydroxy-4-methoxy-9H-fluoren-9-one | OC1=CC=2C(C3=CC=CC(=C3C2C(=C1)OC)O)=O | C14H10O4
